US04698341
6.9 g (19.4 mmol) of 1,4,5,6-tetrahydro-2-methyl-4-(3-nitrophenyl)-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester prepared according to Example 1, and 2.4 g (19.4 mmol) of N,N-dimethylaminopropylchloride are kept at boiling temperature for 48 hours with 10.7 g (77.6 mmol) potassium carbonate in 500 ml acetone. The product is reduced in volume to dryness under vacuum, the residue is taken up in 500 ml water and 500 ml methylene chloride and the organic phase washed with 500 ml water and dried over sodium sulfate. The brown crude product obtained after removing the solvent in vacuo is recrystallized twice from acetonitrile/ethanol. There is obtained 1,4,5,6-tetrahydro-6-(3-dimethylaminopropyl)-2-methyl-4-(3-nitrophenyl)-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester in the form of yellow needles with a melting point of 212°-213° C.

reactant | 1,4,5,6-tetrahydro-2-methyl-4-(3-nitrophenyl)-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester | 19.4 mmol, 6.9 g | C(C)OC(=O)C1=C(NC=2C=CNC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C18H17N3O5
reactant | N,N-dimethylaminopropylchloride | 19.4 mmol, 2.4 g | CN(C)CCCCl | C5H12ClN
reactant | potassium carbonate | 77.6 mmol, 10.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | 500 ml | O | H2O
product | 1,4,5,6-tetrahydro-6-(3-dimethylaminopropyl)-2-methyl-4-(3-nitrophenyl)-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=2C=CN(C(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)CCCN(C)C)C | C23H28N4O5
